US06265411B1
n-Butyllithium (29 ml of a 1.6M solution in hexane, 47.4 mmol) was added dropwise over 10 minutes to a solution of 2,2,6,6-tetramethylpiperidine (6.7 g, 47.4 mmol) in THF (175 ml) cooled to −78° C. A solution of 1-t-butoxycarbonylpyrrole (8.19 g, 49 mmol) in THF (25 ml) was added and the mixture was maintained below −70° C. The reaction mixture was stirred for 1.5 hours at −78° C. and tri-isopropyl borate (17 g, 90 mmol) was added. The reaction mixture was then allowed to warm to ambient temperature over 1 hour. The mixture was diluted with ether (500 ml) and washed with 1M potassium hydrogen sulphate solution (100 ml×3), 1M sodium hydrogen carbonate solution (100 ml×2) and brine (100 ml). The ether phase was dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash column chromatography eluting with isohexanes/ethyl acetate (a gradient from 100/0 to 50/50) to give the 1-t-butoxycarbonylpyrrol-2-ylboronic acid (4.05 g, 43%).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 47.4 mmol, 6.7 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-t-butoxycarbonylpyrrole | 49 mmol, 8.19 g | C(C)(C)(C)OC(=O)N1C=CC=C1 | C9H13NO2
reactant | tri-isopropyl borate | 90 mmol, 17 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | hexane | CCCCCC | C6H14
solvent | THF | 175 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-t-butoxycarbonylpyrrol-2-ylboronic acid | 4.05 g, 43% | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
